US05705509
A stirred suspension of methyl 8-amino-7-nitro-1,4-benzodioxan-5-carboxylate (300 mg, 0.0012 mole) in ethanol (30 ml) together with glacial acetic acid (5 ml) was hydrogenareal over 10% Pd-C (100 mg) at atmospheric pressure and temperature for 5 h. The catalyst was filtered off and the filtrate concentrated in vacuo. The residue was basified with concentrated potassium carbonate solution and extracted with ethyl acetate. The extract was dried (Na2SO4) and concentrated in vacuo to afford methyl 7,8-diamino-1,4-benzodioxan-5-carboxylate as a beige solid (240 mg, 92%). 1H NMR (CDCl3) δ:6.91(s,1 H), 4.21(s,4 H), 3.96(br s.2 H), 3.74(s,3 H), 3.0(br s,2 H).

reactant | methyl 8-amino-7-nitro-1,4-benzodioxan-5-carboxylate | 0.0012 mole, 300 mg | NC1=C(C=C(C2=C1OCCO2)C(=O)OC)[N+](=O)[O-] | C10H10N2O6
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd-C | 100 mg | [Pd] | Pd
product | methyl 7,8-diamino-1,4-benzodioxan-5-carboxylate | 240 mg, 92% | NC=1C=C(C2=C(OCCO2)C1N)C(=O)OC | C10H12N2O4
